US05081287
To a stirred 1.0 Molar solution of borane·tetrahydrofuran complex, 90 ml (0.09 mole), was added dropwise 57 grams (0.27 mole) of 9-decenyl acetate. The reaction mixture temperature was maintained at 20°-25° C. during the addition. Upon completion of addition, the reaction mixture stirred at ambient temperature for 18 hours. After this time 2 ml of aqueous 3M hydrochloric acid was added, and the reaction mixture was stirred for five minutes. To this was then added 5.0 grams (0.09 mole) of acrolein, during which time the reaction mixture temperature rose to 35° C. The reaction mixture was concentrated under reduced pressure to a residual oil. The oil was taken up in pentane and was washed with three 30 ml portions of an aqueous solution saturated with sodium bicarbonate. The organic layer was concentrated under reduced pressure to a residual oil. Volatile materials were removed from the oil by distillation under reduced pressure yielding 4.9 grams of 13-oxotridecyl acetate. The nmr spectrum was consistent with the proposed structure.

reactant | 9-decenyl acetate | 0.27 mole, 57 grams | C(C)(=O)OCCCCCCCCC=C | C12H22O2
reactant | hydrochloric acid | 3M | Cl | ClH
reactant | acrolein | 0.09 mole, 5.0 grams | C(=O)C=C | C3H4O
product | 13-oxotridecyl acetate | 4.9 grams | C(C)(=O)OCCCCCCCCCCCCC=O | C15H28O3
